US08791100B2
1. 2-Bromo-5-chloro-4-dimethoxymethyl-pyridine, INT 51
A mixture of 2-bromo-5-chloronicotinaldehyde (3.00 g, 13.6 mmol), trimethylorthoformate (4.48 mL, 40.8 mmol) and p-toluenesulfonic acid monohydrate (129 mg, 0.680 mmol) in MeOH (55 mL) was refluxed for 16 hours. The mixture was diluted in CH2Cl2 and washed with 10% aqueous potassium carbonate and brine, dried over sodium sulfate, filtered and concentrated. The crude product was used in the next step without further purification. LC/MS method 2: MS (ESI): 267 [M+H]+, rt=2.22 min. 1H-NMR (DMSO-d6): δ (ppm) 8.53 (s, 1H), 7.65 (S, 1H), 5.53 (s, 1H), 3.31 (2d, 6H).

reactant | 2-bromo-5-chloronicotinaldehyde | 13.6 mmol, 3.00 g | BrC1=C(C=O)C=C(C=N1)Cl | C6H3BrClNO
reactant | trimethylorthoformate | 40.8 mmol, 4.48 mL | COC(OC)OC | C4H10O3
reactant | p-toluenesulfonic acid monohydrate | 0.680 mmol, 129 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | MeOH | 55 mL | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-Bromo-5-chloro-4-dimethoxymethyl-pyridine | BrC1=NC=C(C(=C1)C(OC)OC)Cl | C8H9BrClNO2
